US05395969
Stage 1--Preparation of 1-(N-benzyl-N-phenylamino)naphthalene
Benzyl bromide (0.15M) was added to a stirred mixture of 1-phenylaminonaphthalene (0.1M) and KOH (0.15M) in N-methyl pyrrolidone (70 cm3) at 120° C. After 2 hours further stirring the mixture was poured in to water, the precipitate filtered off, washed and re-crystallised from methanol to give 20 g (65% yield) of a white solid mp 120°-123° C.

reactant | Benzyl bromide | 0.15M | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 1-phenylaminonaphthalene | 0.1M | C1(=CC=CC=C1)NC1=CC=CC2=CC=CC=C12 | C16H13N
reactant | KOH | 0.15M | [OH-].[K+]
reactant | water | O | H2O
solvent | N-methyl pyrrolidone | 70 cm3 | CN1C(CCC1)=O | C5H9NO
product | 1-(N-benzyl-N-phenylamino)naphthalene | 20 g, 65% yield | C(C1=CC=CC=C1)N(C1=CC=CC=C1)C1=CC=CC2=CC=CC=C12 | C23H19N
